US06107329
5-Chloro-1H-indole-2-carboxylic acid (1-diethylcarbamoyl-2-phenyl-ethyl)-amide
Diethylamine (1.2 mmol) and 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid (0.6 mmol) were coupled according to procedure A (0-25° C. for 5 days) substituting the following workup: the crude product was suspended in 1:1 chloroform/dichloromethane, sonicated, filtered to remove solids, concentrated, and the residue purified by column chromatography on silica gel eluted with 10, 20 and 30% ethyl acetate in hexanes: Yield 14 mg, 6%; HPLC (60/40) 8.88 minutes (98%); PBMS 398/400 (MH+, 100%);

reactant | Diethylamine | 1.2 mmol | C(C)NCC | C4H11N
reactant | 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid | 0.6 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)NC(C(=O)O)CC1=CC=CC=C1 | C18H15ClN2O3
solvent | chloroform dichloromethane | C(Cl)(Cl)Cl.ClCCl
product | 5-Chloro-1H-indole-2-carboxylic acid (1-diethylcarbamoyl-2-phenyl-ethyl)-amide | C(C)N(C(=O)C(CC1=CC=CC=C1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)CC | C22H24ClN3O2
